US05705499
b) 5,11-Dihydro-11-ethyl-2-iodo-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of 5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-2-trimethylstannyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (47 mg, 0.09 mmol) in chloroform was added a solution of iodine in chloroform (0.1M, 4 mL, 0.4 mmol). After 24 hours, the reaction mixture was washed with saturated aqueous KF, 5% NaHSO3, and saturated aq. sodium chloride. Purification by flash chromatography (elution with methanol-dichloromethane) and recrystallization (ethyl acetate-hexanes) afforded 15 mg (21%) of the title compound, m.p. 174° C.

reactant | 5,11-dihydro-11-ethyl-8-[2-(4-pyridyl)ethyl]-2-trimethylstannyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.09 mmol, 47 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCC3=CC=NC=C3)=O)C)C=CC(=N2)[Sn](C)(C)C
reactant | iodine | II | I2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 0.4 mmol, 0.1M, 4 mL | C(Cl)(Cl)Cl | CHCl3
product | 5,11-Dihydro-11-ethyl-2-iodo-8-[2-(4-pyridyl)ethyl]-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 15 mg, 21% | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCC3=CC=NC=C3)=O)C)C=CC(=N2)I | C21H20IN5O
